US04149005
In the same apparatus and following the same modalities as in Example 1, 1 g (0.00416 mole) of 1-(p-bromophenyl)-3-amino-2-pyrazoline was suspended in 10 ml of ethanol with addition of 0.04 g (0.0004 mole) of CuCl and of 0.013 g (0.0002 mole) of Cu, under an oxygen head. Oxidation was concluded after about 3 hours. The oxidized product was recovered as in Example 1, thus obtaining 0.5 g of 1-(p-bromophenyl)-3-aminopyrazole, of melting point 122°-123° C.

reactant | 1-(p-bromophenyl)-3-amino-2-pyrazoline | 0.00416 mole, 1 g | BrC1=CC=C(C=C1)N1N=C(CC1)N | C9H10BrN3
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | CuCl | 0.0004 mole, 0.04 g | Cl[Cu]
product | 1-(p-bromophenyl)-3-aminopyrazole | 0.5 g | BrC1=CC=C(C=C1)N1N=C(C=C1)N | C9H8BrN3
